US07291619B2
1-Boc-4-(2-pyrrolidin-1-ylmethyl-3-trifluoromethyl-phenyl)-piperazine
To a solution of N-boc-4-(2-formyl-3-trifluoromethyl-phenyl)piperazine (358 mg, 1 mmol, 1.0 eq.) in MeOH (10 mL) was added pyrrolidine (0.093 mL, 1.1 mmol, 1.1 eq.). The mixture was refluxed overnight. The reaction was cooled to about 0° C., and NaBH4 on alumina (10 wt % on basic alumina, 570 mg, 1.5 mmol, 1.5 eq.) was added. After the addition was compete, the ice bath was removed, and the mixture was stirred at r.t. for about 2 hours. The mixture was filtered through celite, washed with methanol and concentrated. The solution was diluted with EtOAc (50 mL) and washed with saturated NaHCO3 and brine. The aqueous layers were extracted with EtOAc (2×). The combined organic extracts were dried (Na2SO4), filtered and concentrated. Purification by flash chromatography (35 g SiO2, 40 mL/min, linear gradient 0-10% MeOH/CH2Cl2 for 25 minutes and 10% MeOH/CH2Cl2 for 7 minutes) gave the title compound (298 mg, 0.72 mmol, 72%). LRMS (ESI+): 414.3 (M+1)

reactant | N-boc-4-(2-formyl-3-trifluoromethyl-phenyl)piperazine | 1 mmol, 358 mg, 1.0 eq. | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C(=CC=C1)C(F)(F)F)C=O | C17H21F3N2O3
reactant | pyrrolidine | 1.1 mmol, 0.093 mL, 1.1 eq. | N1CCCC1 | C4H9N
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 1-Boc-4-(2-pyrrolidin-1-ylmethyl-3-trifluoromethyl-phenyl)-piperazine | 0.72 mmol, 298 mg, 72% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C(=CC=C1)C(F)(F)F)CN1CCCC1 | C21H30F3N3O2
